US03962261
2,3-Dihydro-5-hydroxy-N-(5-methylisoxazol-3-yl)-1-benzothiepin-4-carboxamide 1,1-Dioxide
A mixture of 17 g (0.05 mol) of crude methyl 2,3,4,5-tetrahydro-5-oxo-1-benzothiepin-4-carboxylate 1,1-dioxide, 6.0 g (0.061 mol) of 3-amino-5-methylisoxazole, and 350 ml of toluene was refluxed for 24 hours in a Soxhlet apparatus the thimble of which contained 20 g of Linde type 4A molecular sieve. The mixture was diluted with 500 ml of ether and the resulting precipitate (10 g) was collected and recrystallized from 400 ml of tetrahydrofuran to give 9.0 g of product mp 226°-228°. Recrystallization gave an analytical sample mp 227°-229°.

reactant | methyl 2,3,4,5-tetrahydro-5-oxo-1-benzothiepin-4-carboxylate 1,1-dioxide | 0.05 mol, 17 g | O=C1C(CCS(C2=C1C=CC=C2)(=O)=O)C(=O)OC | C12H12O5S
reactant | 3-amino-5-methylisoxazole | 0.061 mol, 6.0 g | NC1=NOC(=C1)C | C4H6N2O
reactant | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2,3-Dihydro-5-hydroxy-N-(5-methylisoxazol-3-yl)-1-benzothiepin-4-carboxamide 1,1-Dioxide | 9.0 g | OC1=C(CCS(C2=C1C=CC=C2)(=O)=O)C(=O)NC2=NOC(=C2)C | C15H14N2O5S
